US06624159B2
Ethyl 8-amino-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate [AA.6]
A solution of ethyl 4-hydroxy-6-(4-morpholinylmethyl)-8-nitro-3-quinolinecarboxylate (Preparation 1, 1.36 g) in DMF (50 mL) is hydrogenated at 50 psi hydrogen pressure in the presence of 10% Pd/C (400 mg) for 15 min. The catalyst is filtered off and the filtrate is evaporated. The residual solid is triturated with methanol to afford 1.12 g of the title compound. Physical characteristics. 1H NMR (DMSO-d6) δ1.28, 2.35, 3.44, 3.57, 4.21, 5.59, 6.98, 7.33, 8.41.

reactant | ethyl 4-hydroxy-6-(4-morpholinylmethyl)-8-nitro-3-quinolinecarboxylate | 1.36 g | OC1=C(C=NC2=C(C=C(C=C12)CN1CCOCC1)[N+](=O)[O-])C(=O)OCC | C17H19N3O6
reactant | hydrogen | [H][H] | H2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | Ethyl 8-amino-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate | 1.12 g | NC=1C=C(C=C2C(=C(C=NC12)C(=O)OCC)O)CN1CCOCC1 | C17H21N3O4
